US06528525B1
(e) Ethyl 3-[4-(3-aminopropoxy)phenyl]-2-butylpropionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-[4-(3-azidopropoxy)phenyl]-2-butylpropionate (2.45 g) and palladium on carbon (5%, 250 mg) and the reaction mixture was treated to afford the desired compound (1.62 g) as a colorless oil.

reactant | ethyl 3-[4-(3-azidopropoxy)phenyl]-2-butylpropionate | 2.45 g | N(=[N+]=[N-])CCCOC1=CC=C(C=C1)CC(C(=O)OCC)CCCC | C18H27N3O3
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | Ethyl 3-[4-(3-aminopropoxy)phenyl]-2-butylpropionate | 1.62 g | NCCCOC1=CC=C(C=C1)CC(C(=O)OCC)CCCC | C18H29NO3
